US07964613B2
(R)-3-[3-(piperazin-1-yl)propionyl]amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine
(S)-3-[3-[1-(tert-Butoxycarbonyl)piperazin-4-yl]propionyl]amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine can be prepared from hydrochloride of the compound prepared in Example 19-2 by using 3-[1-(tert-butoxycarbonyl)piperazin-4-yl]propionic acid in the method of Example 56-1 instead of 2-methoxyacetic acid, and the protective group of the obtained compound can be removed according to the method described in Example 1-1, Step B to obtain the title compound.

reactant | (S)-3-[3-[1-(tert-Butoxycarbonyl)piperazin-4-yl]propionyl]amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC(=O)N[C@@H]1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Cl | C25H34ClN5O5S
reactant | hydrochloride | Cl | ClH
reactant | 3-[1-(tert-butoxycarbonyl)piperazin-4-yl]propionic acid | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC(=O)O | C12H22N2O4
reactant | 2-methoxyacetic acid | COCC(=O)O | C3H6O3
product | (R)-3-[3-(piperazin-1-yl)propionyl]amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine | N1(CCNCC1)CCC(=O)N[C@H]1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Cl | C20H26ClN5O3S
